US05070203
A solution of 68.45 g (0.20 mol) of sodium tetraphenylborate in 700 mL of water was added to a solution of 38.8 (0.10 mol) N,N'-pentamethylenebis(pyridinium) dibromide in 400 mL of water. The mixture was stirred for 30 minutes, filtered, and the collected solid was washed with water and methanol. The solid was recrystallized from acetonitrile, collected and dried to give 56.0 g (64.6%) of N,N'-pentamethylenebis(pyridinium) di(tetraphenylborate); mp=228°-230° C. 1H NMR was consistent with the proposed structure. Atomic analysis calculated for C63H60B2N2 (866.82): 87.3% C, 7.0% H, 2.5% B, 3.2% N. Found: 87.7% C, 7.0% H, 2.6% B, 3.2% N.

reactant | sodium tetraphenylborate | 0.20 mol, 68.45 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | N,N'-pentamethylenebis(pyridinium) dibromide | [Br-].[Br-].[N+]1(=CC=CC=C1)CCCCC[N+]1=CC=CC=C1
solvent | water | 700 mL | O | H2O
solvent | water | 400 mL | O | H2O
product | N,N'-pentamethylenebis(pyridinium) di(tetraphenylborate) | 56.0 g, 64.6% | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[N+]1(=CC=CC=C1)CCCCC[N+]1=CC=CC=C1 | InChI=1S/2C24H20B.C15H20N2/c2*1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-4-10-16(11-5-1)14-8-3-9-15-17-12-6-2-7-13-17/h2*1-20H;1-2,4-7,10-13H,3,8-9,14-15H2/q2*-1;+2
